US06884821B1
Using methyl 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzoate and 4-bromochlorobenzene, 2-chloro-4-(4′-chlorophenyl)benzoic acid was obtained in the same method as in Production Example 292b).

reactant | methyl 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzoate | ClC1=C(C(=O)OC)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H18BClO4
reactant | 4-bromochlorobenzene | BrC1=CC=C(C=C1)Cl | C6H4BrCl
product | 2-chloro-4-(4′-chlorophenyl)benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C1=CC=C(C=C1)Cl | C13H8Cl2O2
